US05994391
Alkylation of 4-methoxyphenol with 4-fluorobenzyl chloride according to the procedure described in J. Chem. Soc, 2431 (1958) gave 4-methoxy-2-(4'-fluorobenzyl)phenol. This material was converted to compound 69 and compound 70 by the procedure similar to that in Example 18 method B.

reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
product | 4-methoxy-2-(4'-fluorobenzyl)phenol | COC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F | C14H13FO2
